US08895582B2
To a solution of (S)-4-(tert-butoxycarbonyl(methyl)amino)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)-2,2-dimethylpentyl acetate (1.9 g, 3.8 mmol) in THF (50 mL) was added HCl (4 N in 1,4-dioxane, 19 mL, 76 mmol). The reaction mixture was stirred at RT for 1 h and concentrated to dryness. The residue was suspended in THF (100 mL). To the suspension were added DIEA (2.0 mL, 11.4 mmol) and 4-nitrophenyl 2-chloro-3-fluorobenzylcarbamate (1.2 g, 3.8 mmol). The reaction mixture was stirred at RT for 2 h and concentrated. The residue was purified on RP-HPLC using a mixture of acetonitrile and water to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-hydroxy-4,4-dimethylpentyl 6-fluoroisoquinolin-3-ylcarbamate (1.1 g, 53%). LRMS (M+H+) m/z 535.5

reactant | (S)-4-(tert-butoxycarbonyl(methyl)amino)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)-2,2-dimethylpentyl acetate | 3.8 mmol, 1.9 g | C(C)(=O)OCC(C[C@@H](COC(NC=1N=CC2=CC=C(C=C2C1)F)=O)N(C)C(=O)OC(C)(C)C)(C)C | C25H34FN3O6
reactant | HCl | 76 mmol, 4 N, 19 mL | Cl | ClH
reactant | DIEA | 11.4 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl 2-chloro-3-fluorobenzylcarbamate | 3.8 mmol, 1.2 g | ClC1=C(CNC(OC2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1F | C14H10ClFN2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-hydroxy-4,4-dimethylpentyl 6-fluoroisoquinolin-3-ylcarbamate | 1.1 g, 53% | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CC(CO)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C26H29ClF2N4O4
